datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([O:4])([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])[H:15],46.35872
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](=[C:16]([C:17]([C:18]([H:24])([H:25])[H:26])[C:19](=[C:20]([H:28])[H:29])[H:27])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:17]([C:16](=[C:15]([H:21])[H:22])[H:23])([C:18]([H:24])([H:25])[H:26])[C:19](=[C:20]([H:28])[H:29])[H:27])[H:8])[H:7],64.9357
[C:3](=[C:4]([H:6])[H:7])[H:5].[S:0]([H:1])[H:2]>>[H:1].[S:0]([H:2])[C:3](=[C:4]([H:6])[H:7])[H:5],34.3088
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0](=[C:1]([H:9])[H:10])([H:7])[H:8].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([O:5][O:6][H:17])[H:13])([H:11])[H:12],121.336
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10]([C:9]([H:12])([H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15],-1.2552
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:30])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:25]([C:24](=[C:23]([H:28])[H:29])[H:30])([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:13])([H:11])[H:12],42.2166
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([c:15]1[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]1[H:28])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:21])[H:7])([H:5])[H:6].[C:14]([c:15]1[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]1[H:28])([H:22])[H:23],64.852
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[S:11][H:12]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][S:11][H:12],43.2
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])([C:9]([H:17])([H:18])[H:19])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([S:2][H:5])[H:13])([H:3])[H:4].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[C:9]([H:17])([H:18])[H:19])([H:10])([H:11])[H:12],-13.8072
[C:0]([C:1]([O:2][H:13])([C:3]([C:4]([C:5]([C:6]([O:7][O:8])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([O:2][H:13])[C:3]([C:4]([C:5]([C:6]([O:7][O:8][H:12])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:9])([H:10])[H:11],52.3
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([H:10])[H:11])[H:9]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:7](=[C:8]([H:10])[H:11])[H:9],2.5104
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[H:12])[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:16])[H:17])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1[C:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:6]([C:7]([H:18])([H:19])[H:20])([C:8]([H:21])([H:22])[H:23])[C:5]1([H:16])[H:17])[H:11])([H:9])[H:10],124.683
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](#[C:25][C:26]([C:27]([H:30])([H:31])[H:32])[C:28]([H:33])([H:34])[H:35])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25]#[C:24][H:29])([C:27]([H:30])([H:31])[H:32])[C:28]([H:33])([H:34])[H:35])[H:12],37.4886
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([S:13][H:18])[H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:12]([C:11]([H:14])([H:15])[H:16])([S:13][H:18])[H:17],39.748
[O:0][H:1].[c:2]1([H:20])[c:3]([H:21])[c:4]([H:22])[c:5]2[c:6]([c:7]1[H:23])[c:8]([H:24])[c:9]([H:25])[c:10]1[c:11]3[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]3[c:17]([H:30])[c:18]([H:31])[c:19]21>>[O:0]([H:1])[H:24].[c:2]1([H:20])[c:3]([H:21])[c:4]([H:22])[c:5]2[c:6]([c:7]1[H:23])[c:8][c:9]([H:25])[c:10]1[c:11]3[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]3[c:17]([H:30])[c:18]([H:31])[c:19]21,6.0926
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:17])([H:3])([H:4])[H:5].[C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])([H:18])[H:19],27.6144
